Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
bleeding, hypotension
 
Major Surgical or Invasive Procedure:
Intubation
 
History of Present Illness:
___ h/o ESRD on HD, CAD, CHF (EF 35%), on HD for ESRD presenting 
to ED this morning after awakening covered in blood, with 
displacement of right chest hemodialysis line.  Pressure was 
applied to the wound, and EMS was activated. 

Upon arrival to the ED VS=97.8  ___  16  95%, however she 
quickly dropped to 70/p, although her right chest wound was no 
longer oozing.  Left cordis was placed, and pt received 3U PRBCs 
with HCT improving from 33->30->38.  BP remained low, and pt was 
started on levophed gtt with increase in SBP to 100s/60s, and HR 
to 110s.  She was intubated ___ increased confusion, though 
initial CXR reveals right main stem intubation, which by report 
was corrected.  FAST USN revealed no acute intrabominal 
bleeding.  ECG revealed afib, and old lbbb vs ivcd. 

She is admitted to the MICU for management of presumed 
hypovelemic shock.  She received 3U PRBCs and 1L NS in the ED.  
Her access includes L cordis and right PIVx1.  

Per family, she was in her USOH until presenting this morning.  
No fevers, chills, CP, SOB, N/V, ABD PAIN, rash, medication 
changes. 

 
Past Medical History:
1. HTN  
2. CHF (EF 50-60%)  
3. CAD s/p CABG ___ LIMA->LAD, SVG->OM1, SVG->RCA), most  
recent cath in ___, 3VD with patient LIMA-LAD  
4. s/p MI (___)  
5. DM2  
6. bilateral RAS s/p stents (___)  
7. right carotid stenosis  
8. s/p appendectomy (___)  
9. s/p cholecystectomy (___)  
10. Spinal stenosis; s/p surgery (___)  
11. Chronic renal insufficiency (baseline Cre 2.3)  
12. Bilateral cataracts  
13. s/p colonoscopy (___)  
14. h/o atrial flutter  
15. h/o chronic anemia (baseline Hct ___  
16. PVD s/p aortobifemoral bypass  

 
Social History:
___
Family History:
NC
 
Physical Exam:
General: intubated, sedated. 
HEENT: PERRL, gag intact, no LAD.  
Lungs: Clear to auscultation anteriorly, +bronchial breath 
sounds
CV: irregular, tachycardic, no murmurs, rubs, gallops  
Abdomen: obese, soft, non-tender, non-distended, +bowel sounds 
present, no rebound tenderness or guarding, ventral hernia. 
Ext: cool extremities, ___ pulses, dusky, blue/purple 
toes bilaterally.  2+ B ___ edema. L ___ ~3cm erythematous, wound 
with central ulcer.  

 
Pertinent Results:
___ 08:52PM   GLUCOSE-207* UREA N-61* CREAT-6.3* 
SODIUM-132* POTASSIUM-5.0 CHLORIDE-94* TOTAL CO2-22 ANION 
GAP-21*
___ 08:52PM   CALCIUM-9.2 PHOSPHATE-7.1* MAGNESIUM-1.8
___ 04:17PM   TYPE-ART TEMP-37.2 RATES-16/ TIDAL VOL-450 
PEEP-5 O2-40 PO2-147* PCO2-45 PH-7.34* TOTAL CO2-25 BASE XS--1 
-ASSIST/CON INTUBATED-INTUBATED
___ 03:53PM   GLUCOSE-213* UREA N-61* CREAT-6.3* SODIUM-134 
POTASSIUM-5.0 CHLORIDE-95* TOTAL CO2-22 ANION GAP-22*
___ 03:53PM   CALCIUM-9.5 PHOSPHATE-7.0* MAGNESIUM-1.8
___ 03:53PM   ___ PTT-27.2 ___
___ 10:31AM   HCT-37.7
___ 09:23AM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 09:23AM URINE  RBC-3* WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 07:50AM   TYPE-ART TEMP-36.8 TIDAL VOL-450 PEEP-5 O2-40 
PO2-160* PCO2-41 PH-7.34* TOTAL CO2-23 BASE XS--3
___ 07:40AM   GLUCOSE-189* UREA N-55* CREAT-5.9*# 
SODIUM-134 POTASSIUM-5.7* CHLORIDE-96 TOTAL CO2-21* ANION 
GAP-23*
___ 07:40AM   ALT(SGPT)-24 AST(SGOT)-86* ALK PHOS-171*
___ 07:40AM   ALBUMIN-3.6 CALCIUM-8.8 PHOSPHATE-7.4* 
MAGNESIUM-1.8
___ 07:40AM   WBC-11.2* RBC-3.85* HGB-12.6 HCT-38.9 
MCV-101* MCH-32.7* MCHC-32.4 RDW-22.4*
___ 07:40AM   PLT COUNT-133*
___ 07:40AM   ___ PTT-27.3 ___
 
Brief Hospital Course:
/___ CXR: right mainstem intubation, cordis in place. 

___ EGG: afib 104 bpm, LAD, LBBB (old), no STE (sgarbossa).   

 
# hypotension - Was worked up for hypovolemic shock with blood 
transfusions and serial hcts. no acute GIB found. Underwent TTE 
which showed worsened CHF. Hypotension did require pressors 
however as patient's family eventually changed goals of care to 
comfort measures this was weaned off. she passed away after a 
few days in the hospital.  

# respiratory failure - pt intubated in the setting of prolonged 
hypotension, resulting on altered mental status, and concern 
over patient's airway.  pre-intubation ABG 7.35/46/340, 
consistent with good lung mechanics. She was quickly extubated 
and tolerated this well, although was clearly uncomfortable. 
After the family changed the goals of care she was kept 
comfortable with morphine PRN and passed away a few weeks later.
 

# Code: Patient came in and family discussion resulted in 
changing from DNR to CMO if patient was extubated. she was 
eventually extubated and tolerated it well for a few days. She 
was transitioned to CMO. 
# Communication: With family. Husband ___: ___, 
___ (DTR): ___ or ___

 
Medications on Admission:
(from family)
Levothyroxine 112mcg daily
Folic Acid 1mg daily
Aspirin 81mg daily
Omeprazole 40mg daily
Neurontin 200mg QHS
Niacin ER 500mg daily at night
Metoprolol 12.5mg BID (not on HD days)
Lipitor 40mg daily
Ultram 100mg QAM, 50mg QPM
Allopurinol ___ daily
NPH insulin 45units BID 
Humulin R insulin SS
Senna PRN
Ativan 1mg BID
 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___